US04105681
By the procedure described in Example 14, 9-(4-methoxy-2,6-dimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid butyl ester is manufactured from 4-methoxy-2,6-dimethylbenzyl-triphenylphosphonium chloride by reaction with 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid butyl ester. From this product, there is produced by the procedure of Example 15, 9-(4-methoxy-2,6-dimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid of melting point 207°-208° C.

reactant | 9-(4-methoxy-2,6-dimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid butyl ester | C(CCC)OC(C=C(C=CC=C(C=CC1=C(C=C(C=C1C)OC)C)C)C)=O | C24H32O3
reactant | 4-methoxy-2,6-dimethylbenzyl-triphenylphosphonium chloride | [Cl-].COC1=CC(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=C1)C)C
reactant | 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid butyl ester | C(CCC)OC(C=C(C=CC=C(C)C=O)C)=O | C14H20O3
product | 9-(4-methoxy-2,6-dimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid | COC1=CC(=C(C(=C1)C)C=CC(=CC=CC(=CC(=O)O)C)C)C | C20H24O3
